US07960436B2
d. [4-Amino-1-(4-fluoro-phenylamino)-indan-5-yl]-carbamic acid ethyl ester
A solution of [4-nitro-1-(4-fluoro-phenylamino)-indan-5-yl]-carbamic acid ethyl ester (200 mg) in 20 ml of methanol was added a catalytic amount of Raney Ni. The resulting mixture was hydrogenated under regular pressure at room temperature for 4 hours. The reaction mixture was filtered through celite and washed with methanol. The filtrate was evaporated to dryness in vacuo and the residue was purified by column (hexane/EtOAc, 3:1) to give a white solid product. 1H-NMR (DMSO-d6): δ 8.51 (brs, 1H, NH, exchangeable with D2O), 6.94 (dd, 2H, J=9.0, 18.6 Hz), 6.88 (d, 1H, J=8.1 Hz), 6.66 (dd, 2H, J=4.2, 9.0 Hz), 6.49 (d, 1H, J=8.1 Hz), 5.70 (brs, 1H, NH, exchangeable with D2O), 4.80 (m, 3H, NH2 and CH)), 4.05 (q, 2H, J=7.2 Hz), 2.74 (ddd, 1H, J=3.6, 8.7, 15.6 Hz), 2.60-2.36 (m, 2H), 1.71 (m, 1H), 1.20 (t, 3H, J=7.2 Hz). MS: 330 (M+1).

reactant | [4-nitro-1-(4-fluoro-phenylamino)-indan-5-yl]-carbamic acid ethyl ester | 200 mg | C(C)OC(NC=1C(=C2CCC(C2=CC1)NC1=CC=C(C=C1)F)[N+](=O)[O-])=O | C18H18FN3O4
solvent | methanol | 20 ml | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | [4-Amino-1-(4-fluoro-phenylamino)-indan-5-yl]-carbamic acid ethyl ester | C(C)OC(NC=1C(=C2CCC(C2=CC1)NC1=CC=C(C=C1)F)N)=O | C18H20FN3O2
